US05861108
The mixture of 2-hydroxy-6-naphthoic acid of 18.8 g, N,N-dimethylformamide of 150 g and anhydrous sodium carbonate of 13.3 g was heated to 70° C., and n-butyl bromide of 16.4 g was dropwise added thereto in one hour. After finishing dropwise adding, the suspension was further stirred at 70° to 80° C. for 6 hours. The reaction mixture was cooled down to room temperature and filtrated off the inorganic salt. Then the filtrate was discharged into water of 1000 g. The deposited solid was separated, and sludging was carried out in n-hexane, whereby n-butyl 2-hydroxy-6-naphthoate of 22.0 g was obtained in the form of brown crystal.

reactant | 2-hydroxy-6-naphthoic acid | OC1=CC2=CC=C(C=C2C=C1)C(=O)O | C11H8O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | n-butyl 2-hydroxy-6-naphthoate | OC1=CC2=CC=C(C=C2C=C1)C(=O)OCCCC | C15H16O3
